US07696229B2
3. Synthesis of 1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-3-yl formate
Into a 250 mL 3-necked round bottom flask was placed dichloromethane (30 mL). To the mixture was added mCPBA (m-chloroperbenzoic acid) (2.78 g, 13.69 mmol), while cooling to a temperature of 0° C. This was followed by the addition of a solution of 1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine-3-carbaldehyde (3 g, 10.49 mmol) in dichloromethane (100 mL), which was added dropwise with stirring, while cooling to a temperature of 0° C. The resulting solution was allowed to react, with stirring, 2 hours while the temperature was maintained at 0° C. Then the resulting solution was allowed to react, with stirring, overnight while the temperature was maintained at 30° C. in a bath of oil. The reaction progress was monitored by LC-MS. The residue was purified by eluting through a column with a 1:10 ethyl acetate/petroleum ether solvent system. This resulted in 2 g (63%) of 1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-3-yl formate as a light yellow solid.

reactant | mCPBA | 13.69 mmol, 2.78 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine-3-carbaldehyde | 10.49 mmol, 3 g | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C=2C1=NC=CC2)C=O | C14H10N2O3S
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-3-yl formate | C(=O)OC1=CN(C2=NC=CC=C21)S(=O)(=O)C2=CC=CC=C2 | C14H10N2O4S
